### PR TITLE
feat: lemmas for HashMap.alter and .modify 

### PR DESCRIPTION
**Pull request by datokrat**
This PR adds lemmas about HashMap.alter and .modify. These lemmas describe the interaction of alter and modify with the read methods of the HashMap. The additions affect the HashMap, the DHashMap and their respective raw versions. Moreover, the raw versions of alter and modify are defined.

### CODE REVIEW

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 1]
```diff
@@ -964,64 +964,666 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    (h : f none = some v) : empty.alter k f = empty.insert k v := by
+  rw [alter_empty, h]
+
 @[simp]
-theorem alter_of_none [LawfulBEq α] {k : α} {f g : Option (β k) → Option (β k)}
-    (h : f (m.get? k) = none) : m.alter k f = m.erase k :=
+theorem isEmpty_alter [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} :
+    -- should we use = or ↔? LHS is Bool, RHS is Prop.
+    -- mem_iff_contains suggests ↔.
+    (m.alter k f).isEmpty ↔ (m.erase k).isEmpty ∧ f (m.get? k) = none :=
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:988]: Yes, that is definitely more boolean.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 2]
```diff
@@ -964,64 +964,666 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    | some v => empty.insert k v :=
+  sorry
+
+theorem alter_empty_of_none [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)}
+    (h : f none = none) : empty.alter k f = empty := by
+  rw [alter_empty, h]
+
+theorem alter_empty_of_some [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} {v : β k}
+    (h : f none = some v) : empty.alter k f = empty.insert k v := by
+  rw [alter_empty, h]
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:982]: Okay, I'll keep them for now but will prove them last and only if it's very easy.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 3]
```diff
@@ -964,64 +964,666 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+
+theorem getKeyD_modify [LawfulBEq α] {k k' : α} {f : β k → β k} :
+    (m.modify k f).getKeyD k' =
+    if k == k' then
+      if k ∈ m then (fun _ => k) else (·)
+    else
+      m.getKeyD k' :=
+  sorry
+
+-- if is sufficiently simple that simp might be okay
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1454]: I generally prefer not to have `if` on the RHS of any simp.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 4]
```diff
@@ -964,64 +964,666 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+@[simp]
+theorem getKeyD_modify_self [LawfulBEq α] [Inhabited α] {k : α} {f : β k → β k} :
+    (m.modify k f).getKeyD k = if k ∈ m then (fun _ => k) else (·) :=
+  sorry
+
+theorem modify_eq_alter [LawfulBEq α] {k : α} {f : β k → β k} :
+    m.modify k f = m.alter k (·.map f) := sorry
+
+variable {β : Type v} {m : DHashMap α (fun _ => β)} in
+theorem modify_eq_constAlter [LawfulBEq α] {k : α} {f : β → β} :
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1464]: This would usually be `modify_eq_const_alter`: namespace dots turn into snake case, not camel case, in theorem names.

Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean:1464]: Is this true? I used to think that, but after seeing changes like https://github.com/leanprover-community/mathlib4/pull/18808 I no longer thought it worked like this. Or does that one only get to be camel-cased because it's a notation?

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 5]
```diff
@@ -964,64 +964,666 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+
+theorem contains_alter_not_beq [LawfulBEq α] {k k' : α} {f : Option (β k) → Option (β k)}
+    (h : (k == k') = false) : (m.alter k f).contains k' = m.contains k' := by
+  simp only [contains_alter, h, Bool.false_eq_true, reduceIte]
+
+theorem mem_alter_not_beq [LawfulBEq α] {k k' : α} {f : Option (β k) → Option (β k)}
+    (h : (k == k') = false) : k' ∈ m.alter k f ↔ k' ∈ m := by
+  simp only [mem_iff_contains, contains_alter_not_beq, h]
+
+theorem size_alter [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} :
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1018]: In lines 1018 and 1028, I have created two candidates, is one of them about what you would expect?

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 6]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    -- mem_iff_contains suggests ↔.
+    (m.alter k f).isEmpty = ((m.erase k).isEmpty && (f (m.get? k)).isNone) :=
+  Raw₀.isEmpty_alter _ m.2
+
+theorem contains_alter [LawfulBEq α] {k k': α} {f : Option (β k) → Option (β k)} :
+    (m.alter k f).contains k' = if k == k' then (f (m.get? k)).isSome else m.contains k' :=
+  Raw₀.contains_alter ⟨_, _⟩ m.2
+
+theorem mem_alter [LawfulBEq α] {k k': α} {f : Option (β k) → Option (β k)} :
+    k' ∈ m.alter k f ↔ if  k == k' then (f (m.get? k)).isSome = true else k' ∈ m := by
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:997]:
```suggestion
    k' ∈ m.alter k f ↔ if k == k' then (f (m.get? k)).isSome = true else k' ∈ m := by
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 7]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem contains_alter_self [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} :
+    (m.alter k f).contains k = (f (m.get? k)).isSome := by
+  simp only [contains_alter, beq_self_eq_true, reduceIte]
+
+@[simp]
+theorem mem_alter_self [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} :
+    k ∈ m.alter k f ↔ (f (m.get? k)).isSome := by
+  rw [mem_iff_contains, contains_alter_self]
+
+theorem contains_alter_of_beq_eq_false [LawfulBEq α] {k k' : α} {f : Option (β k) → Option (β k)}
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1010]: I would suggest that we just abbreviate `beq_eq_false` to `ne` here (and similarly `beq_eq_true` to `eq`. There is a slight ambiguity, but I think given that we're not actually stating lemmas in terms of equality, it's not a big deal and the brevity is nice.

Happy if you decide against.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (kim-em) [reply src/Std/Data/DHashMap/Lemmas.lean:1018]: I think `size_alter` itself really should be an if statement, as you've written. It's for when you really want to know the size, and are happy to then split the ifs and work out the branches yourself.

But we then also need
* `size_alter_eq_sub_one (h : k \mem m) (h' : (f (m.get? k)).isNone)`
* `size_alter_eq_add_one (h : k \nin m) (h' : (f (m.get? k)).isSome)` (I think the branches as currently stated are wrong?)
* `size_alter_eq_self (h : k \nin m) (h' : (f (m.get? k)).isNone)`
* `size_alter_le : (m.alter k f).size \le m.size + 1`
* `le_size_alter : m.size - 1 \le (m.alter k f).size`

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 8]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem size_alter_le [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} :
+    (m.alter k f).size ≤ m.size + 1 :=
+  sorry
+
+theorem le_size_alter [LawfulBEq α] {k : α} {f : Option (β k) → Option (β k)} :
+    m.size - 1 ≤ (m.alter k f).size :=
+  sorry
+
+theorem get?_alter [LawfulBEq α] {k k' : α} {f : Option (β k) → Option (β k)} :
+    (m.alter k f).get? k' = if h : k == k' then
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1044]: Shouldn't this be stated in terms of `(m.alter k f)[k']?`?

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 9]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+      (cast (congrArg (Option ∘ β) (eq_of_beq h)) (f (m.get? k)))
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1045]: These verbose casts make me sad, but so far I have nothing to suggest. Happy if anyone has ideas!

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 10]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+  sorry
+
+theorem getKey_alter [LawfulBEq α] [Inhabited α] {k k' : α} {f : Option (β k) → Option (β k)}
+    (h : k' ∈ m.alter k f) :
+    (m.alter k f).getKey k' h =
+    if heq : k == k' then
+      k
+    else
+      haveI h' : k' ∈ m := by rwa [mem_alter, if_neg heq] at h
+      m.getKey k' h' :=
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1133]: I think this is out of scope for initial work, but I wonder if an autoparam for the proofs in `get` and `getKey`, backed by a simple tactic, would work. I suspect we could remove a lot of these inline proofs with a custom tactic for proving membership.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 11]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+  sorry
+
+@[simp]
+theorem getKey_alter_self [LawfulBEq α] [Inhabited α] {k : α} {f : Option (β k) → Option (β k)}
+    (h : k ∈ m.alter k f) :
+    (m.alter k f).getKey k h = k :=
+  sorry
+
+theorem getKeyD_alter [LawfulBEq α] {k k' : α} {f : Option (β k) → Option (β k)} :
+    (m.alter k f).getKeyD k' =
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1143]: Again, fully applied, please.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 12]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem modify_empty [LawfulBEq α] {k : α} {f : β k → β k} : empty.modify k f = empty :=
+  sorry
+
+theorem modify_of_not_mem [LawfulBEq α] {k : α} {f g : β k → β k} (h : k ∉ m) :
+    m.modify k f = m :=
+  sorry
+
+@[simp]
+theorem isEmpty_modify [LawfulBEq α] {k : α} {f : β k → β k} :
+    (m.modify k f).isEmpty ↔ m.isEmpty :=
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1357]: `=`

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 13]
```diff
@@ -964,4 +965,701 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+theorem getKey?_modify_self [LawfulBEq α] {k : α} {f : β k → β k} :
+    (m.modify k f).getKey? k = Option.guard (fun _ => k ∈ m) k :=
+  sorry
+
+theorem getKey!_modify [LawfulBEq α] [Inhabited α] {k k' : α} {f : β k → β k} :
+    (m.modify k f).getKey! k' =
+    if k == k' then
+      -- possible alternative (here and at other places): if k ∈ m then k else default
+      -- although correct, I'm not sure about the tradeoffs of replacing get! with
+      -- something that does not panic
```
Comment (kim-em) [inline src/Std/Data/DHashMap/Lemmas.lean:1449]: In my opinion, it is not the task of verification theorems to preserve panic behaviour. (Particularly since, if you forget to set the flag, panics don't actually panic...)

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 4 above)
Comment (kim-em) [reply src/Std/Data/DHashMap/Lemmas.lean:1493]: Indeed, I'm out of date here, and indeed #naming is explicit on this question:
```quote
If the definition name is unambiguous without its namespace, it can be used as is. Else, the namespace is prepended back to it in lowerCamelCase. This is to ensure that _-separated strings in a lemma name correspond to a definition name or connective.
```

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1018]: Oops, you are right that I mistakenly wrote `isNone` instead of `isSome`. Regarding `size_alter_eq_self`, I think we also need a variant in case that k is contained previously and afterwards, too.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 14]
```diff
@@ -964,64 +964,666 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+@[simp]
+theorem get?_modify_self [LawfulBEq α] {k : α} {f : β k → β k} :
+    (m.modify k f).get? k = (m.get? k).map f :=
+  sorry
+
+theorem get_modify [LawfulBEq α] {k k' : α} {f : β k → β k}
+    (h : k' ∈ m.modify k f) :
+    (m.modify k f).get k' h =
+    if heq : k == k' then
+      haveI h' : k ∈ m := by rwa [mem_modify, ← eq_of_beq heq] at h
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1434]: Would a term like `mem_alter_of_beq heq |>.mp h` suffice or should I really create a dedicated lemma similar to `mem_insertIfNew'`?

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:997]: Just what I thought, but when I leave out `= true`, then Lean does not coerce `(...).isSome` to `Prop`. Instead, it coerces `k' ∈ m` to `Bool` using `decide` and finally coerces the whole if to `Prop`. I found that unfortunate, so I inserted the `= true` to get rid of the unnecessary `decide`.

More concretely, leaving out `= true` yields this statement:
```lean4
k' ∈ m.alter k f ↔ (if (k == k') = true then (f (m.get? k)).isSome else decide (k' ∈ m)) = true
```

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 8 above)
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1066]: Do you mean that the statement should be ` (m.alter k f)[k']? = if h : k == k' then ...`? `DHashMap` doesn't seem to implement `GetElem?`. Also I'm skeptical because the lemma name explicitly contains `get?` and not `getElem?`. If we had `GetElem?` shouldn't we name the proposed lemma `getKey?_alter` instead?

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 7 above)
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1012]: What do you think of writing `bne`? It is a bit more precise. (However, just like `ne`, it would be slightly incorrect because the hypothesis is not `(k != k') = true` but `(k == k') = false`; see this [context](https://github.com/leanprover/lean4/pull/6620#discussion_r1912953183). What do you think, @TwoFX ?)

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean:1020]: Sorry, my memory was faulty here: to be consistent with the other `le_size` lemmas, the names should be `size_alter_le_size` and `size_le_size_alter`.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean:1455]: Yes, if it is very simple like this it's fine.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 7 above)
Comment (kim-em) [reply src/Std/Data/DHashMap/Lemmas.lean:1012]: `beq` and `bne` would be fine with me.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 8 above)
Comment (kim-em) [reply src/Std/Data/DHashMap/Lemmas.lean:1068]: Oh, indeed, I'm confused about the dependent and non-dependent versions. For `HashMap` itself we'll want lemmas stated in terms of `GetElem?`, but that's for the future still.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 7 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Lemmas.lean:1012]: The problem with `bne` is that there is something called `bne`, namely the `x != y` notation, which is defined to be `!(x == y)`. The `simp` tactic turns `!(x == y)` into `(x == y) = false`, but `x != y` stays as `x != y`. So far, the hash map library has been using `(x == y) = false` over `x != y` because that was the more ergonomic normal form in my experiments. There is definitely something to be fixed here! There probably should not be both `x != y` and `(x == y) = false` which are both in simp-normal form and express the same thing. However, I don't think that this PR is the right place to start fixing this, so I prefer to stick to the conventions that are used in the codebase at the moment:

- `x == y` and `(x == y) = true` is referred to as `beq` in names,
- `(x == y) = false` is referred to as `beq_eq_false` in names,
- `!(x == y)` should not appear in statements as it's not in simp normal form,
- `x != y` is referred to as `bne` in names.

Comment (kim-em) [reply src/Std/Data/DHashMap/Lemmas.lean:1012]: Okay, that's fine. I will see if I can find some time to think about the simp normal form issue underlying this.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1020]: FYI: I slightly changed the signature of `size_alter` so that the conditions are purely boolean and not some weird mix of bool and prop. Hence, it uses `!contains` instead of `contains = false` now.

**Comment by datokrat** [comment]
@TwoFX The `DHashMap` lemmas are done now. Note that there are still some out-commented lemmas in case I happen to need them when I proceed. Next I'll do Raw and HashMap.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean]: I won't implement them now; otherwise I'd need to extend the RawLemmas tactic system which perhaps isn't worth the time when we have more pressing priorities.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 15]
```diff
@@ -1269,4 +1269,330 @@ theorem isEmpty_unitOfList [EquivBEq α] [LawfulHashable α]
 
 end
 
+section Alter
+
+variable {m : HashMap α β}
+
+@[simp]
+theorem isEmpty_alter [EquivBEq α] [LawfulHashable α] {k : α} {f : Option β → Option β} :
+    (alter m k f).isEmpty ↔ (m.erase k).isEmpty ∧ f (get? m k) = none :=
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:1278]: This should be stated using `=`.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 16]
```diff
@@ -1269,4 +1269,330 @@ theorem isEmpty_unitOfList [EquivBEq α] [LawfulHashable α]
...
+  DHashMap.Const.isEmpty_alter
+
+theorem contains_alter [EquivBEq α] [LawfulHashable α] {k k': α} {f : Option β → Option β} :
+    (alter m k f).contains k' =
+    if k == k' then (f (get? m k)).isSome else m.contains k' :=
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:1283]:
```suggestion
      if k == k' then (f (get? m k)).isSome else m.contains k' :=
```

File: src/Std/Data/HashMap/Lemmas.lean [hunk 17]
```diff
@@ -1269,4 +1269,330 @@ theorem isEmpty_unitOfList [EquivBEq α] [LawfulHashable α]
...
+    (h : m.contains k) (h': (f (get? m k)).isNone) :
+    (alter m k f).size = m.size - 1 :=
+  DHashMap.Const.size_alter_eq_sub_one h h'
+
+theorem size_alter_eq_self [LawfulBEq α] {k : α} {f : Option β → Option β}
+    (h : m.contains k = false) (h': (f (get? m k)).isNone) :
+    (alter m k f).size = m.size :=
+  DHashMap.Const.size_alter_eq_self h h'
+
+theorem size_alter_eq_self' [LawfulBEq α] {k : α} {f : Option β → Option β}
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:1338]: We're trying not to intoduce new `'` into theorem names where possible. Please disambiguate using the first hypothesis that is different.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 18]
```diff
@@ -1269,4 +1269,330 @@ theorem isEmpty_unitOfList [EquivBEq α] [LawfulHashable α]
...
+        m.size :=
+  DHashMap.Const.size_alter
+
+theorem size_alter_eq_add_one [LawfulBEq α] {k : α} {f : Option β → Option β}
+    (h : m.contains k = false) (h': (f (get? m k)).isSome) :
+    (alter m k f).size = m.size + 1 :=
+  DHashMap.Const.size_alter_eq_add_one h h'
+
+theorem size_alter_eq_sub_one [LawfulBEq α] {k : α} {f : Option β → Option β}
+    (h : m.contains k) (h': (f (get? m k)).isNone) :
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:1329]: In theorem statements we prefer to spell membership using `∈` instead of `contains`.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 19]
```diff
@@ -1269,4 +1269,330 @@ theorem isEmpty_unitOfList [EquivBEq α] [LawfulHashable α]
...
+  DHashMap.Const.getKey?_alter
+
+theorem getKey?_alter_self [EquivBEq α] [LawfulHashable α] {k : α} {f : Option β → Option β} :
+    (alter m k f).getKey? k = if (f (get? m k)).isSome then some k else none :=
+  DHashMap.Const.getKey?_alter_self
+
+theorem getKey!_alter [EquivBEq α] [LawfulHashable α] [Inhabited α] {k k' : α}
+    {f : Option β → Option β} : (alter m k f).getKey! k' =
+      if k == k' then
+        if (f (get? m k)).isSome then k else panic ""
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:1423]: Comparing with `Option.get!_none`, perhaps just writing `default` instead of `panic ""` is fine here.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 20]
```diff
@@ -1269,4 +1269,330 @@ theorem isEmpty_unitOfList [EquivBEq α] [LawfulHashable α]
...
+  DHashMap.Const.getKey_alter
+
+@[simp]
+theorem getKey_alter_self [EquivBEq α] [LawfulHashable α] [Inhabited α] {k : α}
+    {f : Option β → Option β} {h : k ∈ alter m k f} :
+    (alter m k f).getKey k h = k :=
+  DHashMap.Const.getKey_alter_self
+
+theorem getKeyD_alter [EquivBEq α] [LawfulHashable α] {k k' d : α} {f : Option β → Option β} :
+    (alter m k f).getKeyD k' d =
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:1450]: I think so far we have been using `fallback` as the name for the fallback in theorem statements.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 21]
```diff
@@ -676,6 +676,26 @@ theorem isEmpty_replaceEntry [BEq α] {l : List ((a : α) × β a)} {k : α} {v
   · simp only [replaceEntry_cons, cond_eq_if, List.isEmpty_cons]
     split <;> simp
 
+theorem mem_replaceEntry_of_key_not_beq [BEq α] [EquivBEq α] {a : α} {b : β a}
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:679]:
```suggestion
theorem mem_replaceEntry_of_beq_eq_false [BEq α] [EquivBEq α] {a : α} {b : β a}
```
And similarly below

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 22]
```diff
@@ -1722,4 +1725,561 @@ end Const
 
 end Raw₀
 
+namespace Raw₀
+
+variable [BEq α] [Hashable α]
+variable (m : Raw₀ α β)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:1731]: Why redeclare everything?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 23]
```diff
@@ -1722,4 +1725,561 @@ end Const
...
+
+theorem getKey_alter [Inhabited α] {k k' : α} (h : m.1.WF) {f : Option β → Option β}
+    (hc : (Const.alter m k f).contains k') :
+    (Const.alter m k f).getKey k' hc =
+      if heq : k == k' then
+        k
+      else
+        haveI h' : m.contains k' := by rwa [contains_alter _ h, if_neg heq] at hc
+        m.getKey k' h' := by
+  simp_to_model using List.Const.getKey_alterKey
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:2015]: I do find it a bit strange that you proved `getKey_alter` in this file, but `Const.getKey_alter` in `List/Associative.lean`. As discussed, I don't mind either way, but I think it should be consistent.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 24]
```diff
@@ -2751,128 +2827,223 @@ theorem alterKey_cons_perm [BEq α] [LawfulBEq α] {k : α} {f : Option (β k) 
...
-  induction l
-  · simp only [modifyKey, getValueCast?_nil, eraseKey_nil, containsKey_nil, Bool.false_eq_true]
-  · simp only [modifyKey, Bool.coe_iff_coe]
-    split
-    · rfl
-    · rw [containsKey_replaceEntry]
 
 namespace Const
 
+omit [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:3044]: `omit`, and especially `omit ... in` are supposed to be last-resort constructs. Please reorganize the sectioning so that you don't need them here.

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 25]
```diff
@@ -2751,128 +2827,223 @@ theorem alterKey_cons_perm [BEq α] [LawfulBEq α] {k : α} {f : Option (β k) 
...
+        f (getValueCast? k l) |>.map (cast (congrArg β <| eq_of_beq heq)) |>.getD v
+      else
+        getValueCastD k' l v := by
+  simp only [getValueCastD_eq_getValueCast?, hl, getValueCast?_alterKey, beq_iff_eq,
+    Function.comp_apply]
+  split
+  · next heq =>
+    cases eq_of_beq heq
+    simp only [List.cast_eq_id, Option.map_id]
+  · rfl
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2981]: Presumably some of these proofs can be golfed. For example, after adding
```lean
@[simp]
theorem Option.map_cast_apply {γ γ' : Type u} (h : γ = γ') (x : Option γ) :
    Option.map (cast h) x = cast (congrArg Option h) x := by
  cases h; cases x <;> simp
```
this proof could be shortened to
```suggestion
  simp only [getValueCastD_eq_getValueCast?, hl, getValueCast?_alterKey, beq_iff_eq,
    Function.comp_apply]
  simp [apply_dite (Option.getD · v)]
```
But it's probably not a good use of time at the moment to golf these proofs too much, as they're not terribly long to begin with. But `apply_dite` is a useful lemma to know.

File: src/Std/Data/HashMap/Lemmas.lean (hunk 17 above)
Comment (datokrat) [reply src/Std/Data/HashMap/Lemmas.lean:1338]: What do you think of `size_alter_eq_self_of_contains` and `size_alter_eq_self_of_contains_eq_false`?

An alternative would be to just have one lemma that covers both statements:

```lemma4
theorem size_alter_eq_self [LawfulBEq α] {k : α} {f : Option β → Option β}
    (h : m.contains k = f (get? m k)).isSome) :
    (alter m k f).size = m.size := sorry
```

File: src/Std/Data/DHashMap/Internal/List/Associative.lean (hunk 25 above)
Comment (datokrat) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean]: Thanks! I applied `apply_dite` and `apply_ite` where I found it easy to golf.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 9 above)
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean]: I feel the same but unfortunately cannot find a better way... I will close this for now, okay?

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 10 above)
Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean]: Theoretically, `simpa` -- with suitable arguments -- is indeed able to finish most of these instances. However, perhaps half of the ugly `haveI`'s aren't actually about passing a lemma to `DHashMap.getKey/get`, but about passing a lemma to `Option.get`. I think it would be relatively simple to create tactics for both of these cases, but the latter case seems to me to be overly specific and perhaps not worth a tactic?

Either way, I won't do this in this PR, but I'm very interested in your thoughts and might do it in another PR!

File: src/Std/Data/DHashMap/Internal/List/Associative.lean [hunk 26]
```diff
@@ -2968,15 +2968,15 @@ theorem getValueCast!_alterKey {k k' : α} [Inhabited (β k')] {f : Option (β k
     (l : List ((a : α) × β a)) (hl : DistinctKeys l) : getValueCast! k' (alterKey k f l) =
       if heq : k == k' then
         haveI : Inhabited (β k) := ⟨cast (congrArg β <| eq_of_beq heq).symm default⟩
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/List/Associative.lean:2970]: This line is no longer needed, yes?

Comment (datokrat) [reply src/Std/Data/DHashMap/Internal/List/Associative.lean]: Oh, I see that I missed the actual point of the change... Very nice.
